US08247430B2
1-(4-Nitro-phenyl)-cyclopropanecarbonitrile
NaOH (5.0 N, 80 ml) was added to a mixture of 4-nitrophenylacetonitrile (10.0 g, 61.7 mmol), 1,2-dibromoethane (8.0 ml, 92.5 mmol), and tetraethylammonium chloride hydrate (10.2 g, 61.7 mmol) in 200 ml of CH2Cl2 at RT. The resulting mixture was stirred at RT for 24 h, diluted with CH2Cl2, and acidified with HCl (10%, aq). The organic layer was separated, washed with brine, condensed, and the crude was purified by flash column chromatography. The titled compound was obtained as a light yellowish solid.

reactant | NaOH | 5.0 N, 80 ml | [OH-].[Na+]
reactant | 4-nitrophenylacetonitrile | 61.7 mmol, 10.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CC#N | C8H6N2O2
reactant | 1,2-dibromoethane | 92.5 mmol, 8.0 ml | BrCCBr | C2H4Br2
reactant | HCl | Cl | ClH
catalyst | tetraethylammonium chloride hydrate | 61.7 mmol, 10.2 g | O.[Cl-].C(C)[N+](CC)(CC)CC
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-Nitro-phenyl)-cyclopropanecarbonitrile | [N+](=O)([O-])C1=CC=C(C=C1)C1(CC1)C#N | C10H8N2O2
